US07166588B2
α-[2-Bromo-4-methoxy-5-(1-methylethoxy)phenyl]-4-(1-methylethoxy)-benzene pentanoic acid amide
α-[2-Bromo-4-methoxy-5-(1-methylethoxy)phenyl]-4-(1-methylethoxy)benzene pentane nitrile (30.0 g, 65.2 mmol) in ethanol (600 ml) is mixed with potassium hydroxide (60.0 g, 1.07 mol) in water (100 ml) and stirred for 6 hours at boiling temperature.

reactant | α-[2-Bromo-4-methoxy-5-(1-methylethoxy)phenyl]-4-(1-methylethoxy)benzene pentane nitrile | 65.2 mmol, 30.0 g | BrC1=C(C=C(C(=C1)OC)OC(C)C)C(C#N)CCCC1=CC=C(C=C1)OC(C)C | C24H30BrNO3
reactant | potassium hydroxide | 1.07 mol, 60.0 g | [OH-].[K+]
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | α-[2-Bromo-4-methoxy-5-(1-methylethoxy)phenyl]-4-(1-methylethoxy)-benzene pentanoic acid amide | BrC1=C(C=C(C(=C1)OC)OC(C)C)C(C(=O)N)CCCC1=CC=C(C=C1)OC(C)C | C24H32BrNO4
